US06248739B1
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1-propyl-1,4-dihydro-3-quinolinecarboxamide
A suspension of 0.50 g of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 5, potassium carbonate (0.76 g), and 1-iodopropane (0.47 g) in DMF is heated to 100° C. for 6 hrs and stirred at room temperature overnight. The reaction mixture is filtered, and the solvent is evaporated at reduced pressure leaving a light brown solid. The solid is stirred with ethyl acetate for an hour and filtered. The solvent is evaporated from the filtrate under reduced pressure, leaving 0.12 g of the title compound as a yellowish-white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | 0.50 g | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 0.47 g | ICCC | C3H7I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1-propyl-1,4-dihydro-3-quinolinecarboxamide | 0.12 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)CCC)C=C1 | C23H21ClN2O3
